### PR TITLE
[Merged by Bors] - feat(Topology/UniformSpace/UniformConvergence): add lemma

### PR DESCRIPTION
**Pull request by CBirkbeck**
We add a lemma that says that composing on the left by a uniformly continuous function on the codomain preserves uniform convergence.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean [hunk 1]
```diff
@@ -239,6 +239,14 @@ theorem UniformContinuous.comp_tendstoUniformly [UniformSpace γ] {g : β → γ
     (hg : UniformContinuous g) (h : TendstoUniformly F f p) :
     TendstoUniformly (fun i => g ∘ F i) (g ∘ f) p := fun _u hu => h _ (hg hu)
 
+/-- Composing on the left by a uniformly continuous on the codomain function preserves uniform
+  convergence -/
+theorem UniformContinuousOn.comp_tendstoUniformly (s : Set β) (F : ι → γ → s) (f : γ → s)
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/UniformConvergence.lean:244]: Please use `{s : Set β} {F : ι → γ → β} {f : γ → β}` and assume `∀ i x, F i x ∈ s` and `∀ x, f x ∈ s`.

Comment (CBirkbeck) [reply Mathlib/Topology/UniformSpace/UniformConvergence.lean:244]: Sorry, I'm being a bit stupid, is there an easy way to prove it using this formulation? The old proof breaks, and I'm struggling to get it to work.

Comment (j-loreaux) [reply Mathlib/Topology/UniformSpace/UniformConvergence.lean:244]: I think the reason this is true is that `Subtype.val : ↥s → β` is a `UniformEmbedding`. Here's a proof (which could be cleaned up a bit if we had any lemmas relating `UniformEmbedding` and `TendstoUniformly`, but we don't), but it doesn't work right here because this file doesn't know about `UniformEmbedding` :sad:, which makes sense.
```
import Mathlib

open Topology Uniformity Filter Set

universe u v w x

variable {α : Type u} {β : Type v} {γ : Type w} {ι : Type x} [UniformSpace β] [UniformSpace γ] {F : ι → α → β} {f : α → β} {s s' : Set α}
  {x : α} {p : Filter ι} {p' : Filter α} {g : ι → α}

/-- Composing on the left by a uniformly continuous on the codomain function preserves uniform
  convergence -/
theorem UniformContinuousOn.comp_tendstoUniformly' (s : Set β) (F : ι → α → β) (f : α → β)
    (hF : ∀ i x, F i x ∈ s) (hf : ∀ x, f x ∈ s)
    {g : β → γ} (hg : UniformContinuousOn g s) (h : TendstoUniformly F f p) :
    TendstoUniformly (fun i => fun x =>  g  (F i x)) (fun x => g (f x)) p := by
  rw [uniformContinuousOn_iff_restrict] at hg
  lift F to ι → α → s using hF with F' hF'
  lift f to α → s using hf with f' hf'
  rw [tendstoUniformly_iff_tendsto] at h
  have : Tendsto (fun q : ι × α ↦ (f' q.2, (F' q.1 q.2))) (p ×ˢ ⊤) (𝓤 s) :=
    h.of_tendsto_comp uniformEmbedding_subtype_val.comap_uniformity.le
  apply (UniformContinuous.comp_tendstoUniformly hg ?_)
  rw [← tendstoUniformly_iff_tendsto] at this
```
Also, it's not clear to me why you are restricting to `g : β → β`, so I changed the type signature to better match other things in this file, so `f : α → β` and `g : β → γ`.

Comment (CBirkbeck) [reply Mathlib/Topology/UniformSpace/UniformConvergence.lean]: Ok nice, this proof works in the `UniformConvergenceTopology` file so I put it there. I don't think I meant to restrict `g` like that, but I agree this is better, thanks!

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 2]
```diff
@@ -1118,3 +1118,27 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
   (UniformOnFun.uniformEquivUniformFun β {univ} (mem_singleton _)).completeSpace_iff.1 inferInstance
 
 end UniformFun
+
+section UniformComposition
+
+universe u v w x
+
+variable {α : Type u} {β : Type v} {γ : Type w} {ι : Type x} [UniformSpace β] [UniformSpace γ]
+  {F : ι → α → β} {f : α → β} {s s' : Set α} {x : α} {p : Filter ι} {p' : Filter α} {g : ι → α}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1127]: It seems like at least `F`, `f`, `s`, `s'`, and `x` are unused. Please check the others too

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 3]
```diff
@@ -1118,3 +1118,27 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
+
+/-- Composing on the left by a uniformly continuous on the codomain function preserves uniform
+  convergence -/
+theorem UniformContinuousOn.comp_tendstoUniformly (s : Set β) (F : ι → α → β) (f : α → β)
+    (hF : ∀ i x, F i x ∈ s) (hf : ∀ x, f x ∈ s)
+    {g : β → γ} (hg : UniformContinuousOn g s) (h : TendstoUniformly F f p) :
+    TendstoUniformly (fun i => fun x =>  g  (F i x)) (fun x => g (f x)) p := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1134]:
```suggestion
    TendstoUniformly (fun i x => g (F i x)) (fun x => g (f x)) p := by
```

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 4]
```diff
@@ -1118,3 +1118,27 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
+  rw [uniformContinuousOn_iff_restrict] at hg
+  lift F to ι → α → s using hF with F' hF'
+  lift f to α → s using hf with f' hf'
+  rw [tendstoUniformly_iff_tendsto] at h
+  have : Tendsto (fun q : ι × α ↦ (f' q.2, (F' q.1 q.2))) (p ×ˢ ⊤) (𝓤 s) :=
+    h.of_tendsto_comp uniformEmbedding_subtype_val.comap_uniformity.le
+  apply (UniformContinuous.comp_tendstoUniformly hg ?_)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1141]: Looks like you can drop the parentheses

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 5]
```diff
@@ -1118,3 +1118,27 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
+
+universe u v w x
+
+variable {α : Type u} {β : Type v} {γ : Type w} {ι : Type x} [UniformSpace β] [UniformSpace γ]
+  {F : ι → α → β} {f : α → β} {s s' : Set α} {x : α} {p : Filter ι} {p' : Filter α} {g : ι → α}
+
+/-- Composing on the left by a uniformly continuous on the codomain function preserves uniform
+  convergence -/
+theorem UniformContinuousOn.comp_tendstoUniformly (s : Set β) (F : ι → α → β) (f : α → β)
+    (hF : ∀ i x, F i x ∈ s) (hf : ∀ x, f x ∈ s)
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1132]: It should be enough to assume `hF` only eventually along `p`.

File: Mathlib/Data/Set/Operations.lean [hunk 6]
```diff
@@ -228,6 +228,9 @@ end Pi
 /-- Two functions `f₁ f₂ : α → β` are equal on `s` if `f₁ x = f₂ x` for all `x ∈ s`. -/
 def EqOn (f₁ f₂ : α → β) (s : Set α) : Prop := ∀ ⦃x⦄, x ∈ s → f₁ x = f₂ x
 
+lemma EqOn_comm {f₁ f₂ : α → β} {s : Set α} : EqOn f₁ f₂ s ↔ EqOn f₂ f₁ s := by
```
Comment (urkud) [inline Mathlib/Data/Set/Operations.lean:231]: We already have `eqOn_comm`.

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean [hunk 7]
```diff
@@ -196,6 +196,12 @@ theorem TendstoUniformlyOn.congr {F' : ι → α → β} (hf : TendstoUniformlyO
   simp only [Set.EqOn] at hff'
   simp only [mem_prod_principal, hff', mem_setOf_eq]
 
+lemma tendstoUniformly_iff_eventually (F F' : ι → α → β) (f : α → β) (hF : F =ᶠ[p] F') :
```
Comment (urkud) [inline Mathlib/Topology/UniformSpace/UniformConvergence.lean:199]:
```suggestion
lemma tendstoUniformly_congr {F F' : ι → α → β} {f : α → β} (hF : F =ᶠ[p] F') :
```

File: lake-manifest.json [hunk 8]
```diff
@@ -55,7 +55,7 @@
    "type": "git",
    "subDir": null,
    "scope": "leanprover-community",
-   "rev": "8ab24d4bb8b4c4a52af3f39027f255b1901669c9",
+   "rev": "8e530857b9be633a8cefaaff756534d219e7b06b",
```
Comment (urkud) [inline lake-manifest.json:58]: Please revert this change.

File: Mathlib/Data/Set/Operations.lean (hunk 6 above)
Comment (CBirkbeck) [reply Mathlib/Data/Set/Operations.lean]: I thought it was strange we didnt have it! but loogle came back with no results. I've removed it now.

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 9]
```diff
@@ -1117,3 +1117,45 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
 end UniformFun
+
+section UniformComposition
+
+universe u v w x
+
+variable {α : Type u} {β : Type v} {γ : Type w} {ι : Type x} [UniformSpace β] [UniformSpace γ]
+{p : Filter ι}
+
+/-- Composing on the left by a uniformly continuous on the codomain function preserves uniform
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1128]:
```suggestion
/-- Composing on the left by a uniformly continuous function on the codomain preserves uniform
```

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 10]
```diff
@@ -1117,3 +1117,45 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
+    h.of_tendsto_comp uniformEmbedding_subtype_val.comap_uniformity.le
+  apply UniformContinuous.comp_tendstoUniformly hg ?_
+  rwa [← tendstoUniformly_iff_tendsto] at this
+
+theorem UniformContinuousOn.comp_tendstoUniformly_eventually (s : Set β) (F : ι → α → β) (f : α → β)
+    (hF : ∀ᶠ i in p, ∀ x, F i x ∈ s) (hf : ∀ x, f x ∈ s)
+    {g : β → γ} (hg : UniformContinuousOn g s) (h : TendstoUniformly F f p) :
+    TendstoUniformly (fun i => fun x => g (F i x)) (fun x => g (f x)) p := by
+  classical
+  rw [@eventually_iff_exists_mem] at hF
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1148]:
```suggestion
  rw [eventually_iff_exists_mem] at hF
```
(assuming it works)

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 11]
```diff
@@ -1117,3 +1117,45 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
   (UniformOnFun.uniformEquivUniformFun β {univ} (mem_singleton _)).completeSpace_iff.1 inferInstance
 
 end UniformFun
+
+section UniformComposition
+
+universe u v w x
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1123]: Do you need the explicit universes or will `Type*` do?

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 12]
```diff
@@ -1117,3 +1117,45 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
+
+variable {α : Type u} {β : Type v} {γ : Type w} {ι : Type x} [UniformSpace β] [UniformSpace γ]
+{p : Filter ι}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1126]:
```suggestion
  {p : Filter ι}
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge 

Thanks!

File: Mathlib/Topology/UniformSpace/UniformConvergence.lean [hunk 13]
```diff
@@ -196,6 +196,12 @@ theorem TendstoUniformlyOn.congr {F' : ι → α → β} (hf : TendstoUniformlyO
   simp only [Set.EqOn] at hff'
   simp only [mem_prod_principal, hff', mem_setOf_eq]
 
+lemma tendstoUniformly_congr {F F' : ι → α → β} {f : α → β} (hF : F =ᶠ[p] F') :
+    TendstoUniformly F f p ↔ TendstoUniformly F' f p := by
+  simp_rw [← tendstoUniformlyOn_univ] at *
+  have HF := EventuallyEq.exists_mem hF
+  refine ⟨fun h => h.congr (by aesop), fun h => h.congr (by simp_rw [eqOn_comm]; aesop)⟩
```
Comment (riccardobrasca) [inline Mathlib/Topology/UniformSpace/UniformConvergence.lean:203]:
```suggestion
  exact ⟨fun h => h.congr (by aesop), fun h => h.congr (by simp_rw [eqOn_comm]; aesop)⟩
```

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 14]
```diff
@@ -1117,3 +1117,42 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
   (UniformOnFun.uniformEquivUniformFun β {univ} (mem_singleton _)).completeSpace_iff.1 inferInstance
 
 end UniformFun
+
+section UniformComposition
+
+variable {α β γ ι : Type*} [UniformSpace β] [UniformSpace γ]
+  {p : Filter ι}
```
Comment (riccardobrasca) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1124]:
```suggestion
variable {α β γ ι : Type*} [UniformSpace β] [UniformSpace γ] {p : Filter ι}
```
It seems less than 100 char

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 15]
```diff
@@ -1117,3 +1117,41 @@ instance {α β : Type*} [UniformSpace β] [CompleteSpace β] : CompleteSpace (
...
+theorem UniformContinuousOn.comp_tendstoUniformly (s : Set β) (F : ι → α → β) (f : α → β)
+    (hF : ∀ i x, F i x ∈ s) (hf : ∀ x, f x ∈ s)
+    {g : β → γ} (hg : UniformContinuousOn g s) (h : TendstoUniformly F f p) :
+    TendstoUniformly (fun i x => g (F i x)) (fun x => g (f x)) p := by
+  rw [uniformContinuousOn_iff_restrict] at hg
+  lift F to ι → α → s using hF with F' hF'
+  lift f to α → s using hf with f' hf'
+  rw [tendstoUniformly_iff_tendsto] at h
+  have : Tendsto (fun q : ι × α ↦ (f' q.2, (F' q.1 q.2))) (p ×ˢ ⊤) (𝓤 s) :=
+    h.of_tendsto_comp uniformEmbedding_subtype_val.comap_uniformity.le
```
Comment (YaelDillies) [inline Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:1135]: Please merge master
```suggestion
    h.of_tendsto_comp isUniformEmbedding_subtype_val.comap_uniformity.le
```

**Comment by sgouezel** [comment]
Can you merge master, fix the build, and then send it back to bors?
bors d+
